US06727269B1
2-(4-bromo-3-oxobutyl)-1H-isoindole-1,3(2H)-dione
Oxalyl chloride (5.8 ml; 66.7 mmol) is added to Pht-β-Ala-OH (9.96 g; 44.5 mmol) dissolved in dichloromethane (120 ml) and 3 drops of dimethylformamide (DMF). The mixture is stirred for 3 hours at ambient temperature. After elimination of the solvent, the white solid is taken up in a 1:1 mixture of anhydrous tetrahydrofuran and acetonitrile (200 ml) then 49 ml of a 2 M solution of (trimethylsilyl) diazomethane in hexane (97.9 mmol) are added dropwise at 0° C. The solvents are eliminated after one night of stirring at 0° C. The pale yellow solid is then dissolved in dichloromethane (60 ml) and 12 ml of aqueous hydrobromic acid (48%) is added dropwise at 0° C. The mixture is stirred until the temperature reaches 15° C. and 50 ml of a saturated solution of sodium bicarbonate is added. The organic phase is washed with salt water then dried over sodium sulphate. Crystallization from diethyl ether allows a white solid to be obtained (11.39 g; yield=86%).

reactant | Oxalyl chloride | 66.7 mmol, 5.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Pht-β-Ala-OH | 44.5 mmol, 9.96 g | C1=CC=C2C(=C1)C(=O)N(C2=O)CCC(=O)O | C11H9NO4
reactant | (trimethylsilyl) diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 97.9 mmol | CCCCCC | C6H14
reactant | hydrobromic acid | 12 ml | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4-bromo-3-oxobutyl)-1H-isoindole-1,3(2H)-dione | yield=86% | BrCC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C12H10BrNO3
